US04337256
1-(4-Methylphenyl)-5-chloro-3,4-dihydroisoquinoline (29 g) and 24.7 g of diphenyl disulfide were reacted over an oil bath at 220° C. The reaction mixture was dissolved in cyclohexane, and extracted with a 4 N aqueous solution of hydrochloric acid. The aqueous layer was neutralized with an aqueous solution of sodium hydroxide. The resulting oily product was extracted with benzene, washed in water, and dried. The solvent was distilled off, and the residue was recrystallized from benzene to afford 22.5 g of 1-(4-methylphenyl)-5-chloroisoquinoline as colorless needles having a melting point of 88.6° to 89.1° C.

reactant | 1-(4-Methylphenyl)-5-chloro-3,4-dihydroisoquinoline | 29 g | CC1=CC=C(C=C1)C1=NCCC2=C(C=CC=C12)Cl | C16H14ClN
reactant | diphenyl disulfide | 24.7 g | C1(=CC=CC=C1)SSC1=CC=CC=C1 | C12H10S2
solvent | cyclohexane | C1CCCCC1 | C6H12
product | 1-(4-methylphenyl)-5-chloroisoquinoline | 22.5 g | CC1=CC=C(C=C1)C1=NC=CC2=C(C=CC=C12)Cl | C16H12ClN
